US06130238
Diethyl oxalate (30 mL) in 20 mL of dry ether was added with stirring to 19 g of potassium ethoxide suspended in 50 mL of dry ether. The mixture was cooled in an ice bath and 20 mL of 3-nitro-o-xylene in 20 mL of dry ether was slowly added. The thick dark red mixture was heated to reflux for 0.5 hr, concentrated to a dark red solid, and treated with 10% sodium hydroxide until almost all of the solid dissolved. The dark red mixture was treated with 30% hydrogen peroxide until the red color changed to yellow. The mixture was treated alternately with 10% sodium hydroxide and 30% hydrogen peroxide until the dark red color was no longer present. The solid was filtered off and the filtrate acidified with 6N hydrochloric acid. The resulting precipitate was collected by vacuum filtration, washed with water, and dried under vacuum to give 9.8 g (45% yield) of 2-methyl-6-nitrophenylacetic acid as an off-white solid. The solid was hydrogenated in methanol over 10% palladium on carbon to give 9.04 g of the title compound as a white solid.

reactant | Diethyl oxalate | 30 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | potassium ethoxide | 19 g | [O-]CC.[K+]
reactant | 3-nitro-o-xylene | 20 mL | [N+](=O)([O-])C1=C(C(=CC=C1)C)C | C8H9NO2
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2-methyl-6-nitrophenylacetic acid | 9.8 g, 45% yield | CC1=C(C(=CC=C1)[N+](=O)[O-])CC(=O)O | C9H9NO4
